US06936612B2
6-Bromo-8-cyclopentyl-5-methyl-2-(5-morpholin-4-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one (0.310 g, 0.641 mmol), tetrakis(triphenylphosphine)palladium (0.089 g, 0.077 mmol) and tributyl-(1-ethoxy-vinyl)-stannane (0.361 g, 1.0 mmol) were dissolved in toluene (3 mL) and slowly brought to reflux for 2 hours. The reaction mixture was allowed to cool, then purified by silica gel chromatography to give 8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-2-(3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one as a yellow solid (0.180 mg, 59.2%). 1H NMR δvvv (400 MHz, CDCl3) 8.73 (s, 1H), 8.16 (d, J=9.0 Hz, 1H), 8.05 (s, 1H), 8.01 (d, J=2.9 Hz, 1H), 7.36 (dd, J=2.9, 9.3 Hz, 1H), 5.90 (m, 1H), 4.52 (d, J=2.4 Hz, 1H), 4.18 (d, J=2.2 Hz, 1H), 3.93 (q, J=7.1 Hz, 2H), 3.14 (m, 4H), 2.41 (s, 3H), 2.36 (m, 2H), 2.06 (m, 2H), 1.84 (m, 2H), 1.56-1.77 (m, 8H), 1.21 (t, J=7.1 Hz, 3H).

reactant | 6-Bromo-8-cyclopentyl-5-methyl-2-(5-morpholin-4-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.641 mmol, 0.310 g | BrC1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCOCC2)N(C1=O)C1CCCC1)C | C22H25BrN6O2
reactant | tributyl-(1-ethoxy-vinyl)-stannane | 1.0 mmol, 0.361 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.077 mmol, 0.089 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-2-(3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.180 mg, 59.2% | C1(CCCC1)N1C(C(=C(C2=C1N=C(N=C2)NC2=CC=C(C=N2)N2CCCCC2)C)C(=C)OCC)=O | C27H34N6O2
